US05011833
6-Methyl-6,11-dihydro-11-[3-(N,N-dimethylamino)propionyl]dibenzo[c,f][1,2,5]thiadiazepine 5,5-dioxide hydrochloride
5.5 g (0.037 mol) of sodium iodide are added to 13 g (0.037 mol) of 6-methyl-6,11-dihydro-11-(3-chloropropionyl)-dibenzo[c,f][1,2,5]thiadiazepine 5,5-dioxide in 100 ml of acetone, and the mixture is heated under reflux for 30 minutes. After cooling, 7 ml of aqueous 33% dimethylamine are added, and the mixture is kept with stirring at ambient temperature for 16 hours. It is concentrated and the residue is treated with 5% HCl, the insoluble fraction is filtered off and the filtrate is alkalized with NaHCO3 ; a solid forms, which is filtered off, washed with water and dried.

reactant | sodium iodide | 0.037 mol, 5.5 g | [I-].[Na+]
reactant | 6-methyl-6,11-dihydro-11-(3-chloropropionyl)-dibenzo[c,f][1,2,5]thiadiazepine 5,5-dioxide | 0.037 mol, 13 g | CN1S(C2=C(N(C3=C1C=CC=C3)C(CCCl)=O)C=CC=C2)(=O)=O | C16H15ClN2O3S
reactant | dimethylamine | CNC | C2H7N
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 6-Methyl-6,11-dihydro-11-[3-(N,N-dimethylamino)propionyl]dibenzo[c,f][1,2,5]thiadiazepine 5,5-dioxide hydrochloride | Cl.CN1S(C2=C(N(C3=C1C=CC=C3)C(CCN(C)C)=O)C=CC=C2)(=O)=O | InChI=1S/C18H21N3O3S.ClH/c1-19(2)13-12-18(22)21-15-9-5-4-8-14(15)20(3)25(23,24)17-11-7-6-10-16(17)21;/h4-11H,12-13H2,1-3H3;1H
